US08975415B2
To a solution of 6-bromo-4H-chromen-4-one (12 g, 53 mmol) in CH2Cl2 (24 mL) was added TMSOTf (12.5 mL, 69.18 mmol) at ambient temperature. After stirring for 1 hour, THF (210 mL) was added to the mixture at ambient temperature and cooled to −78° C. To the mixture was added n-propylmagnesium bromide (1.05M solution in THF, 66 mL, 69 mmol). After stirring for 1 hour at −78° C., 1M aqueous NH4Cl was added to the mixture. The mixture was warmed to ambient temperature and stirred overnight. The organic and the aqueous layers were separated, and the organic layer was dried over Na2SO4, filtered, and the filtrate was concentrated in vacuo. The residue was purified by silicagel column chromatography (EtOAc-hexane, a linear gradient of EtOAc from 0 to 10%) to afford 6-bromo-2-propyl-2,3-dihydro-4H-chromen-4-one (11.42 g).

reactant | 6-bromo-4H-chromen-4-one | 53 mmol, 12 g | BrC=1C=C2C(C=COC2=CC1)=O | C9H5BrO2
reactant | TMSOTf | 69.18 mmol, 12.5 mL | [Si](C)(C)(C)OS(=O)(=O)C(F)(F)F | C4H9F3O3SSi
reactant | n-propylmagnesium bromide | 69 mmol, 1.05M, 66 mL | C(CC)[Mg]Br
reactant | NH4Cl | 1M | [NH4+].[Cl-]
solvent | CH2Cl2 | 24 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 210 mL | C1CCOC1 | C4H8O
product | 6-bromo-2-propyl-2,3-dihydro-4H-chromen-4-one | 11.42 g | BrC=1C=C2C(CC(OC2=CC1)CCC)=O | C12H13BrO2
